* Z:\home\javi\github_projects\SimpleDSP\LTSpice\antialising_input.asc
I1 0 zin AC 1
C4 vin N005 10µ
R4 vin 0 1000
V1 N004 0 SINE(0 2 1000) AC 1
R3 N005 N004 400
R5 N002 vin 1000
V2 N002 0 3.3
C1 zin N006 10µ
R1 zin 0 1000
R2 N006 0 400
R6 N003 zin 1000
V4 N003 0 3.3
C2 0 vin 470n
C3 0 zin 470n
B1 N001 0 V=2*sin(2*pi*pow(10,time)*time)
.ac dec 100 1 100000
;tran 0 3 0 0.00001
.backanno
.end
